Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / nifedipine
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old man with HTN, HLD, morbid obesity,
HFpEF, afib/flutter s/p cardioversion on ___ on Xarelto, who
presents with dyspnea.

He underwent elective cardioversion this past ___ for A
fib which had been persistent since ___. Following the
cardioversion he has had shortness of breath worse with lying
down and with exertion. He denied any chest pain nausea vomiting
or abdominal pain. He noted a mild cough but no fevers and
occasional subjective chills but have since resolved. Notes a
little bit of mild swelling in his bilateral lower extremities.
Denies any recent trauma/falls, cancer hx, blood clot hx, recent
surgeries or long periods of immobilization.

- In the ED, initial vitals were: T 96.7, HR 67, BP 162/80, RR
24, SPO2 97% RA

- Exam was notable for:
"General: Well appearing, no acute distress
Cardiac: RRR no rgm
Pulmonary: Clear to auscultation bilaterally, no 
crackles/wheezes
Abdominal/GI: No tenderness or masses
Renal: No CVA tenderness
MSK: No deformities or signs of trauma. Very mild swelling noted
in the lower extremities.
Derm: No rashes or signs of trauma
Psych: Normal judgment, mood appropriate for situation"

- Labs were notable for:
WBC 8.1, HgB 15.2, Cr 1.4, BUN 27, K 5.4, trop <0.01x2, proBNP
244

- Studies were notable for:
CXR ___
1. Pulmonary vascular congestion moderate interstitial edema. 
2. Left lower lobe airspace opacity which likely reflects
atelectasis though could reflect pneumonia in the appropriate
clinical setting. 

- The patient was given: ceftriaxone, azithromycin

- Cardiology EP was consulted who noted that the patient is in
NSR and recommended ___ cardiology consultation if there is
concern for cardiac etiology of dyspnea.

He was admitted for workup of dyspnea, treatment of possible
pneumonia, and possible stress test given heart score of 4.

On arrival to the floor, he reports 4 days of shortness of 
breath
with exertion, leg swelling, and mild dry cough. On ___ his
torsemide dose was reduced from 40 mg PO BID to 20 mg PO BID by
his cardiologist Dr. ___ due to
lightheadedness. He currently can only walk 3 blocks or climb 2
flights of stairs before feeling very winded and needing to 
stop.
He also had an episode of chills which lasted for 30 minutes on
___, but notes that he was outside during this and it was a 
cold
night. He sleeps propped up on ___ pillows at baseline and feels
like he is drowning if he lies flat, but states that this is not
new, and he is planning to undergo a sleep study for suspected
OSA. His dry weight is 318 lbs. He denies PND, recent illnesses,
sick contacts, recent dietary indiscretion.
 
Past Medical History:
HTN
HLD
Type II DM - diet controlled 
Morbid obesity
CHF
Afib/Atrial flutter 
CKD
Remote pelvic lipomatosis c/b cystitis glanularis - requiring
bladder irrigation
NAFLD
OA  
 
Social History:
___
Family History:
Mother with afib, s/p pacemaker, has CAD, HTN, and DM.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 98.3, BP 161/88, HR 62, RR 18, SPO2 95% RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Bibasilar crackles. No rhonchi or wheezes. No increased
work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Obese. Normal bowels sounds, non distended, non-tender
to deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing or cyanosis. Trace edema to knees.
Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

Discharge Physical
====================
24 HR Data (last updated ___ @ 1730)
    Temp: 98.6 (Tm 99.1), BP: 158/91 (138-160/73-96), HR: 66 
(58-68), RR: 18, O2 sat: 95% (88-95), O2 delivery: Ra, Wt: 
321.65 lb/145.9 kg   

Fluid: -1700cc 24 hours

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Bibasilar crackles have now cleared. No rhonchi or
wheezes. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Obese. Normal bowels sounds, non distended, non-tender
to deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: trace edema to shins. Pulses DP/Radial 2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.
 
Pertinent Results:
Admission
=========
___ 07:00PM BLOOD WBC-8.1 RBC-4.86 Hgb-15.2 Hct-45.8 MCV-94 
MCH-31.3 MCHC-33.2 RDW-13.2 RDWSD-44.9 Plt ___
___ 07:00PM BLOOD Glucose-102* UreaN-27* Creat-1.4* Na-140 
K-5.4 Cl-101 HCO3-26 AnGap-13
___ 07:05AM BLOOD %HbA1c-6.0 eAG-126

Discharge
==========
___ 06:08AM BLOOD WBC-7.6 RBC-4.64 Hgb-14.6 Hct-44.9 MCV-97 
MCH-31.5 MCHC-32.5 RDW-13.2 RDWSD-47.0* Plt ___
___ 06:08AM BLOOD Glucose-107* UreaN-21* Creat-1.5* Na-143 
K-4.3 Cl-102 HCO3-27 AnGap-14
___ 06:08AM BLOOD Calcium-9.8 Phos-4.4 Mg-2.3

Imaging
=======
CXR
IMPRESSION:
 
 
1. Pulmonary vascular congestion moderate interstitial edema.
2. Left lower lobe airspace opacity which likely reflects 
atelectasis though could reflect pneumonia in the appropriate 
clinical setting.

TTE ___

The left atrial volume index is normal. The right atrium is 
mildly enlarged. The estimated right atrial pressureis ___ mmHg. 
There is mild symmetric left ventricular hypertrophy with a 
normal cavity size. There is normalregional and global left 
ventricular systolic function. Quantitative biplane left 
ventricular ejectionfraction is 69 % (normal 54-73%). There is 
no resting left ventricular outflow tract gradient. Normal 
rightventricular cavity size with normal free wall motion. 
Tricuspid annular plane systolic excursion (TAPSE) isnormal. The 
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. Theaortic arch diameter is normal 
with a normal descending aorta diameter. There is no evidence 
for an aorticarch coarctation. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic valve 
stenosis.There is no aortic regurgitation. The mitral valve 
leaflets appear structurally normal with no mitral valve
prolapse. There is mild [1+] mitral regurgitation. The pulmonic 
valve leaflets are normal. The tricuspid valveleaflets appear 
structurally normal. There is mild to moderate [___] tricuspid 
regurgitation. There is mildpulmonary artery systolic 
hypertension. There is no pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Mild pulmonary artery systolic hypertension. 
Mild-moderate
tricuspid regurgitation.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with HTN, HLD, morbid obesity, 
HFpEF, afib/flutter s/p cardioversion on ___ on Xarelto, who 
presented with dyspnea concerning for HFpEF exacerbation.

ACUTE/ACTIVE ISSUES:
====================

# Acute decompensation of HFpEF
# Hypoxemia
history, exam, and radiographic findings of pulmonary edema cw 
HFpEF exacerbation. BNP only 244, but may be falsely low in the 
setting of morbid obesity. Improved with IV lasix. Thought to 
possibly by secondary to reduced diuretic dosing, or too much 
nodal blockade (diltiazam d/c'd per cardiology recs). Initial 
concern for PNA on CXR for which he received ceftriaxone/azithro 
for one day, but ultimately this was felt to be unlikely and 
antibiotics were stopped, with ongoing improvement. Recevied 2x 
60 IV lasix, then put on 30 BID torsemide as he had become 
overloaded on 20 BID at home. Echo showed mild LVH, mild pHTN, 
mild tricuspid regurgitation, EF 69%. Ambulatory O2 sats were 
90-94% on room air, he did drop once briefly to 88 but it 
resolved without any need for supplemental O2.

#Afib/A flutter s/p cardioversion
In NSR with 1st degree AV dissociation. Cards consulted given 
concern about flecainide potentially contributing to his HFpEF, 
recommended discontinuing diltiazam but continuing felcainide. 
Continued on home xarelto.

# CKD
Cr 1.4 on admission. Baseline 1.3-1.5 going back to ___. 
Discharge Cr 1.5.

CHRONIC/STABLE ISSUES:
======================
# HTN
continued home losartan, fractionated home metoprolol, held 
diltiazam

# Type II DM
Diet controlled, ISS while in house

Transitional Issues
===================
[] weight: 145.9 kg (321.65 lb) 
[] Cr: 1.5
[] Diuretic: 30 torsemide BID
[] please check ambulatory O2 sats, was 90-94% on room air on 
day of discharge. 
[] Held home diltiazem per cardiology recommendations
[] Please make sure sleep study set up as patient likely has OSA

# CONTACT: ___ (wife) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Torsemide 20 mg PO BID 
4. Diltiazem Extended-Release 180 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Rivaroxaban 20 mg PO DAILY 
7. Flecainide Acetate 100 mg PO Q12H 

 
Discharge Medications:
1.  Torsemide 30 mg PO BID 
RX *torsemide 20 mg 1.5 tablet(s) by mouth twice a day Disp #*90 
Tablet Refills:*2 
2.  Flecainide Acetate 100 mg PO Q12H  
3.  Losartan Potassium 50 mg PO DAILY  
4.  Metoprolol Succinate XL 100 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Rivaroxaban 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute on chronic HFpEF exacerbation
Sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You had trouble breathing and low oxygen levels

What did you receive in the hospital?
- You received IV diuretics to help get the extra fluid off your 
lungs, and then you were put back on an oral diuretic
- Your cardiologist evaluated you and stopped one of your 
medications, diltiazem

What should you do once you leave the hospital?
- Make sure to weigh yourself every day. If your weight goes up 
by 3 lb, please call your doctor.
- Try to limit your fluid intake to about 2L daily, and try to 
avoid high sodium foods. 
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___